datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C=Cc1c2[nH]c(c1C)C=C1[NH+]=C(C(CC(=O)OC)=C3N/C(=C\C4=[N+:21](\[H:20])C(=C2)C(C)=C4CC)C(C)=C3C(=O)NCC)[C@@H](CCC(=O)OC)[C@@H]1C.c1ccc(C[NH:10]C23OC4C5C6CC(C7C6C4C72)C53)cc1>>C=Cc1c2[nH]c(c1C)C=C1[NH+]=C(C(CC(=O)OC)=C3N/C(=C\C4=[N:21]C(=C2)C(C)=C4CC)C(C)=C3C(=O)NCC)[C@@H](CCC(=O)OC)[C@@H]1C.c1ccc(C[NH+:10](C23OC4C5C6CC(C7C6C4C72)C53)[H:20])cc1 10=20;20,21=21",
"CC[N:10](C)CCCNC(=O)/C=N/[O-].Nc1nc2ccccc2[n+:21]([H:20])c1N>>CC[N+:10](C)(CCCNC(=O)/C=N/[O-])[H:20].Nc1nc2ccccc2[n:21]c1N 10=20;20,21=21",
"CCCCCCCCCCCC[NH+:21](CCCCCCCCCCCC)[H:20].COc1ccc2c3ccnc(C)c3[n-:10]c2c1>>CCCCCCCCCCCC[NH:21]CCCCCCCCCCCC.COc1ccc2c3ccnc(C)c3[n:10]([H:20])c2c1 10=20;20,21=21",
"C[C@@H](O)[C@H](CCC=O)O[C@H]1O[C@H](C)[C@@H]([N+:21](C)(C)[H:20])[C@H](O)[C@H]1O.O=C(C=C=Cc1ccccc1)[O-:10]>>C[C@@H](O)[C@H](CCC=O)O[C@H]1O[C@H](C)[C@@H]([N:21](C)C)[C@H](O)[C@H]1O.O=C(C=C=Cc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC1CCCC(C(=O)[O-])[NH:10]1.NC(=O)c1c(CC(=O)[O:21][H:20])n[nH]c1N>>CC1CCCC(C(=O)[O-])[NH+:10]1[H:20].NC(=O)c1c(CC(=O)[O-:21])n[nH]c1N 10=20;20,21=21",
"C#CC(C)(C)[N:10](C)C(C)(C)C#C.COc1cc(C)nc(-n2nc(C)cc2[O:21][H:20])n1>>C#CC(C)(C)[N+:10](C)(C(C)(C)C#C)[H:20].COc1cc(C)nc(-n2nc(C)cc2[O-:21])n1 10=20;20,21=21",
"CC(C)CSC(c1ccccc1)=[NH:10].Clc1cc(-c2ccccc2)nnc1NCC[N+:21]1([H:20])CCOCC1>>CC(C)CSC(c1ccccc1)=[NH+:10][H:20].Clc1cc(-c2ccccc2)nnc1NCC[N:21]1CCOCC1 10=20;20,21=21",
"COC(=O)Nc1ncnc2c1[nH]c[n:10]2.O=C(c1cscn1)[O:21][H:20]>>COC(=O)Nc1ncnc2c1[nH]c[n+:10]2[H:20].O=C(c1cscn1)[O-:21] 10=20;20,21=21",
"CC1=CC(=[O:10])N(c2ccccc2)N1C.O=C([O-])c1cc[n+:21]([H:20])cc1>>CC1=CC(=[O+:10][H:20])N(c2ccccc2)N1C.O=C([O-])c1cc[n:21]cc1 10=20;20,21=21",
"O=C1C(=O)[N-:10]c2ccccc21.[NH3+]C(Cc1nc(I)[n:21]([H:20])c1I)C(=O)[O-]>>O=C1C(=O)[N:10]([H:20])c2ccccc21.[NH3+]C(Cc1nc(I)[n-:21]c1I)C(=O)[O-] 10=20;20,21=21",
"CC(C)[N+:21](Cc1ccccc1O)(C(C)C)[H:20].SCc1c[nH]c[n:10]1>>CC(C)[N:21](Cc1ccccc1O)C(C)C.SCc1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)N1CC[NH+:21]([H:20])CC1.O=C(C1(O)CCCC1)[O-:10]>>CC(=O)N1CC[NH:21]CC1.O=C(C1(O)CCCC1)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(C(=S)[N:21](c2ccc(Cl)cc2)[H:20])cc1.Oc1ccc2c[n:10]c3ccccc3c2c1>>Cc1ccc(C(=S)[N-:21]c2ccc(Cl)cc2)cc1.Oc1ccc2c[n+:10]([H:20])c3ccccc3c2c1 10=20;20,21=21",
"O=C([O-])c1ccc2c(ccc[n:10]2)c1.OC[C@@H]1O[C@H]2[C@H](OC(=S)[N:21]2[H:20])[C@H]1O>>O=C([O-])c1ccc2c(ccc[n+:10]2[H:20])c1.OC[C@@H]1O[C@H]2[C@H](OC(=S)[N-:21]2)[C@H]1O 10=20;20,21=21",
"CO[N:21](C(=O)c1ccccc1)[H:20].O=Nc1c([O-:10])ccc2ncsc12>>CO[N-:21]C(=O)c1ccccc1.O=Nc1c([O:10][H:20])ccc2ncsc12 10=20;20,21=21",
"CCC(=O)[O-:10].NCc1ccc(S(=O)(=O)[NH:21][H:20])cc1>>CCC(=O)[O:10][H:20].NCc1ccc(S(=O)(=O)[NH-:21])cc1 10=20;20,21=21",
"Cn1cnc2c([O-])[n:10]cnc21.N#CC(C#N)=N[N:21](c1cccc(O)c1)[H:20]>>Cn1cnc2c([O-])[n+:10]([H:20])cnc21.N#CC(C#N)=N[N-:21]c1cccc(O)c1 10=20;20,21=21",
"CC(CC(=O)[O:21][H:20])C(N)=O.O=C([O-])CSc1[nH]c2cc3ccccc3cc2[n:10]1>>CC(CC(=O)[O-:21])C(N)=O.O=C([O-])CSc1[nH]c2cc3ccccc3cc2[n+:10]1[H:20] 10=20;20,21=21",
"CCCC[NH:10]CCCC.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CCCC[NH+:10](CCCC)[H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCCC[NH:10]CCC(N)=NO.CCc1c(-c2ccccc2)nn(C2CC[N+:21](C)([H:20])CC2)c1[O-]>>CCCC[NH+:10](CCC(N)=NO)[H:20].CCc1c(-c2ccccc2)nn(C2CC[N:21](C)CC2)c1[O-] 10=20;20,21=21",
"O=C(CCc1nnnn1-c1ccccc1)[O-:10].[NH3+][C@H]1CCCC[C@H]1[NH2+:21][H:20]>>O=C(CCc1nnnn1-c1ccccc1)[O:10][H:20].[NH3+][C@H]1CCCC[C@H]1[NH2:21] 10=20;20,21=21",
"C1CC[NH+:21]([H:20])C1.Cc1cccc(Cl)c1/C(=N/CCC[N:10](C)C)c1ccccc1>>C1CC[NH:21]C1.Cc1cccc(Cl)c1/C(=N/CCC[N+:10](C)(C)[H:20])c1ccccc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=[N+]([O-])c1cc(Cl)ccc1C[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=[N+]([O-])c1cc(Cl)ccc1C[NH2+:10][H:20] 10=20;20,21=21",
"NC(=O)C1=C[N+:21]2([H:20])CCC1CC2.c1ccc2c(c1)ccc1c2[nH]c[n:10]1>>NC(=O)C1=C[N:21]2CCC1CC2.c1ccc2c(c1)ccc1c2[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"CC(C)(Cc1ccccc1)[NH2:10].[NH3+]C(CC(=O)[O-])C(=O)NC(CC(=O)O)C(=O)[O:21][H:20]>>CC(C)(Cc1ccccc1)[NH2+:10][H:20].[NH3+]C(CC(=O)[O-])C(=O)NC(CC(=O)O)C(=O)[O-:21] 10=20;20,21=21",
"Cc1cccc(Cl)c1/C(=N/CCC[N:10](C)C)c1ccccc1.Nc1nc(N)[n+:21]([H:20])c2ccccc12>>Cc1cccc(Cl)c1/C(=N/CCC[N+:10](C)(C)[H:20])c1ccccc1.Nc1nc(N)[n:21]c2ccccc12 10=20;20,21=21",
"CNC(=O)c1cccc[n+:21]1[H:20].O=C(CO)[O-:10]>>CNC(=O)c1cccc[n:21]1.O=C(CO)[O:10][H:20] 10=20;20,21=21",
"O=C(O)/C=C/C(=O)CC(=O)CC(=O)[O-:10].O=[N+]([O-])c1ccc(-n2cn[n+:21]([H:20])n2)cc1>>O=C(O)/C=C/C(=O)CC(=O)CC(=O)[O:10][H:20].O=[N+]([O-])c1ccc(-n2cn[n:21]n2)cc1 10=20;20,21=21",
"BrCCCCCC[NH2:10].O=C(OCc1ccccc1)c1ccc([O:21][H:20])cc1>>BrCCCCCC[NH2+:10][H:20].O=C(OCc1ccccc1)c1ccc([O-:21])cc1 10=20;20,21=21",
"CC(C)=C(C(N)=O)C(=O)[O-:10].CN(C)C(O)[OH+:21][H:20]>>CC(C)=C(C(N)=O)C(=O)[O:10][H:20].CN(C)C(O)[OH:21] 10=20;20,21=21",
"C1CCC(C2=[N+:21]([H:20])CCC2)CC1.CS/C(C)=[N:10]\C>>C1CCC(C2=[N:21]CCC2)CC1.CS/C(C)=[N+:10](\C)[H:20] 10=20;20,21=21",
